US08377923B2
CDI (180 mg) was added to a solution of 5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzoic acid (300 mg) in DMF, followed by stirring at 50° C. for one hour. DBU (325 mg) and methanesulfonamide (200 mg) were added to the reaction solution, followed by stirring at 50° C. for 1.5 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate three times, with chloroform once and then with chloroform-methanol (4:1) mixed solution twice. The combined organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=9:1), ethyl acetate (3 ml) and methanol (1.5 ml) were added to the resulting amorphous, and a 4M hydrogen chloride-ethyl acetate solution (150 μl) was added thereto. The solvent was evaporated under reduced pressure and was powdered with diisopropylether to obtain, as a colorless solid, 5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)-N-(methylsulfonyl)benzamide monohydrochloride (143.8 mg).

reactant | CDI | 180 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzoic acid | 300 mg | ClC=1C=CC(=C(C(=O)O)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C20H17ClF3N3O3
reactant | DBU | 325 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methanesulfonamide | 200 mg | CS(=O)(=O)N | CH5NO2S
solvent | DMF | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)-N-(methylsulfonyl)benzamide monohydrochloride | 143.8 mg | Cl.ClC=1C=CC(=C(C(=O)NS(=O)(=O)C)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | InChI=1S/C21H20ClF3N4O4S.ClH/c1-20(2,33-16-10-9-12(22)11-14(16)18(30)28-34(4,31)32)19-27-26-17(29(19)3)13-7-5-6-8-15(13)21(23,24)25;/h5-11H,1-4H3,(H,28,30);1H
